US08975443B2
Alternative Preparation of N-(6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl)methanesulfonamide (Compound (A-1))
Palladium acetate (0.0018 g, 8.09 mmol), di-tert-butyl(2′,4′,6′-triisopropyl-3,6-dimethoxybiphenyl-2-yl)phosphine (0.0086 g, 0.018 mmol) and water (0.6 μL, 0.032 mmol) were charged to a 40-mL reaction vial inside an inert atmosphere glove box. tert-Amyl alcohol (1.0 mL) was added, and the contents were heated to 80° C. and stirred at this temperature for 15 minutes. The reaction mixture was cooled down to room temperature. Potassium phosphate tribasic (0.094 g, 0.445 mmol), 6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl methanesulfonate (0.2 g, 0.404 mmol), methanesulfonamide (0.046 g, 0.485 mmol) and tert-amyl alcohol (1.5 mL) were added to the 40-mL reaction vial. The reaction temperature was raised to 110° C., and the contents were stirred for 14 hours. HPLC analysis of the reaction mixture showed that the titled compound was formed in 5 area % at 210 nm.

reactant | di-tert-butyl(2′,4′,6′-triisopropyl-3,6-dimethoxybiphenyl-2-yl)phosphine | 0.018 mmol, 0.0086 g | C(C)(C)(C)P(C1=C(C(=CC=C1OC)OC)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C31H49O2P
reactant | water | 0.032 mmol, 0.6 μL | O | H2O
reactant | tert-Amyl alcohol | 1.0 mL | C(C)(C)(CC)O | C5H12O
reactant | Potassium phosphate tribasic | 0.445 mmol, 0.094 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl methanesulfonate | 0.404 mmol, 0.2 g | CS(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C1=C(C(=CC(=C1)N1C(NC(C=C1)=O)=O)C(C)(C)C)OC | C26H26N2O6S
reactant | methanesulfonamide | 0.485 mmol, 0.046 g | CS(=O)(=O)N | CH5NO2S
reactant | tert-amyl alcohol | 1.5 mL | C(C)(C)(CC)O | C5H12O
catalyst | Palladium acetate | 8.09 mmol, 0.0018 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl)methanesulfonamide | C(C)(C)(C)C=1C(=C(C=C(C1)N1C(NC(C=C1)=O)=O)C=1C=C2C=CC(=CC2=CC1)NS(=O)(=O)C)OC | C26H27N3O5S
